* Frozen netlist snapshot for record 20260816-100018-af4d1f9
* This is a verbatim copy taken at record time. Do not edit.

* ======================================================================
* DUT netlist          : design/netlist/ldo_core.spice
* sha256               : 3aeb225910549530c8e12875c8065cf645d1ae28e4754e3e638d9a13d067813e
* ======================================================================
* ldo_core -- generated by design/netlist.py from design/ldo_core.sch
* Do not edit: edit the schematic and re-run the export.
** sch_path: design/ldo_core.sch
.subckt ldo_core VIN VOUT EN VSS ERRAMP_OUT PASS_GATE
*.PININFO VIN:B VOUT:B EN:I VSS:B ERRAMP_OUT:O PASS_GATE:I
XMpass VOUT PASS_GATE VIN VIN pfet_03v3 L=0.28u W=2000u nf=40 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMen PASS_GATE EN VIN VIN pfet_03v3 L=0.28u W=50u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
Rtop VOUT FB 300k m=1
XCff VOUT FB cap_mim_2f0_m2m3_noshield c_width=87u c_length=87u m=1
Rbot FB VSS 600k m=1
Vref1 VREF VSS 1.2
Xerramp FB VREF ERRAMP_OUT VIN VSS EN BG error_amp
Xilimit VIN VOUT PASS_GATE EN VREF VSS BG ldo_ilimit
Xsoftstart VIN FB PASS_GATE EN VREF VSS BG ldo_softstart
.ends

* expanding   symbol:  error_amp.sym # of pins=7
** sym_path: design/error_amp.sym
** sch_path: design/error_amp.sch
.subckt error_amp INP INN OUT VDD VSS EN BG
*.PININFO INP:I INN:I OUT:O VDD:B VSS:B EN:I BG:B
XRbias NBIAS RBT VSS ppolyf_u_1k r_width=1u r_length=1000u m=1
XMB1 NBIAS NBIAS VSS VSS nfet_03v3 L=4u W=6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMTAIL TAIL NBIAS VSS VSS nfet_03v3 L=4u W=6.6u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMIN1 ND INN TAIL VSS nfet_03v3 L=6u W=60u nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMIN2 N1 INP TAIL VSS nfet_03v3 L=6u W=60u nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMLD1 ND ND VDD VDD pfet_03v3 L=8u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMLD2 N1 ND VDD VDD pfet_03v3 L=8u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRz NZ N1 VSS ppolyf_u_1k r_width=1u r_length=6000u m=1
XCc NZ OUT cap_mim_2f0_m2m3_noshield c_width=48u c_length=48u m=1
XMrza N1 BG NRZA N1 pfet_03v3 L=9u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRza NZ NRZA VSS ppolyf_u_1k r_width=1u r_length=600u m=1
XCf1 N1 NF cap_mim_2f0_m2m3_noshield c_width=7u c_length=7u m=1
XCf2 NF BG cap_mim_2f0_m2m3_noshield c_width=7u c_length=7u m=1
XM2P BG N1 VDD VDD pfet_03v3 L=1u W=60u nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2N BG NBIAS VSS VSS nfet_03v3 L=4u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRbufb NBP N1 VSS ppolyf_u_1k r_width=1u r_length=5000u m=1
XMbufb OUT NBP VDD VDD pfet_03v3 L=1u W=100u nf=10 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMbuf OUT BG VSS OUT pfet_03v3 L=0.5u W=60u nf=6 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMpgn OUT NBIAS VSS VSS nfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMbg_pu BG EN VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMinv_p ENB EN VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMinv_n ENB EN VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMbias_h RBT ENB VDD VDD pfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMnb_pd NBIAS ENB VSS VSS nfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMn1_pu N1 EN VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMnd_pu ND EN VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  ldo_ilimit.sym # of pins=7
** sym_path: design/ldo_ilimit.sym
** sch_path: design/ldo_ilimit.sch
.subckt ldo_ilimit VIN VOUT PASS_GATE EN VREF VSS BG
*.PININFO VIN:B VOUT:B PASS_GATE:B EN:I VREF:I VSS:B BG:B
XMsense ISNS PASS_GATE VIN VIN pfet_03v3 L=0.28u W=50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRsns VOUT ISNS VSS ppolyf_u r_width=5u r_length=7.6u m=10
XMpd PB PB VIN VIN pfet_03v3 L=2u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMrefp VTH PB VIN VIN pfet_03v3 L=2u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRref VOUT VTH VSS ppolyf_u_3k r_width=1u r_length=30u m=1
Fbias PB VSS Vbsense 1
Vbsense VREF BT 0
XRbias BB BT VSS ppolyf_u_3k r_width=1u r_length=360u m=1
XMben BB EN VSS VSS nfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMca CN ISNS TAIL VIN pfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMcb CO VTH TAIL VIN pfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRtail TAIL TAILP VSS ppolyf_u_3k r_width=1u r_length=150u m=1
XMna CN CN VSS VSS nfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMnb CO CN VSS VSS nfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMen_co CO ENB VSS VSS nfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCc CO VSS cap_mim_2f0_m2m3_noshield c_width=25u c_length=20u m=1
XMg2 CLG CO VSS VSS nfet_03v3 L=1u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRl2 CLG VIN VSS ppolyf_u_3k r_width=1u r_length=150u m=1
XMcoff CLG EN VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMclamp PASS_GATE CLG VIN VIN pfet_03v3 L=0.5u W=50u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMclamp_bg BG CLG VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMinv_p ENB EN VIN VIN pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMinv_n ENB EN VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMen_t TAILP ENB VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  ldo_softstart.sym # of pins=7
** sym_path: design/ldo_softstart.sym
** sch_path: design/ldo_softstart.sch
.subckt ldo_softstart VIN FB PASS_GATE EN VREF VSS BG
*.PININFO VIN:B FB:I PASS_GATE:B EN:I VREF:I VSS:B BG:B
Vbsense_ss VREF BT 0
XRss_bias BB BT VSS ppolyf_u_3k r_width=1u r_length=1000u m=1
XMben_ss BB EN VSS VSS nfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
Fss_ramp VIN SSR Vbsense_ss 0.0060
XCss SSR VSS cap_mim_2f0_m2m3_noshield c_width=60u c_length=60u m=1
XMdis_ss SSR ENB VSS VSS nfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMtop_ss VSS VREF SSR VIN pfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMen_t_ss TAILP ENB VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRtail_ss TAIL TAILP VSS ppolyf_u_3k r_width=1u r_length=600u m=1
XMca_ss CN FB TAIL VIN pfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMcb_ss CO SSR TAIL VIN pfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMna_ss CN CN VSS VSS nfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMnb_ss CO CO VSS VSS nfet_03v3 L=1u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCc_ss CO VSS cap_mim_2f0_m2m3_noshield c_width=25u c_length=20u m=1
XMen_l LP ENB VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRl2_ss CLG LP VSS ppolyf_u_3k r_width=1u r_length=2000u m=1
XMg2_ss CLG CO VSS VSS nfet_03v3 L=1u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMpark_ss CLG ENB VSS VSS nfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMclamp_ss PASS_GATE CLG VIN VIN pfet_03v3 L=0.5u W=20u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCm_ss CLG PASS_GATE cap_mim_2f0_m2m3_noshield c_width=60u c_length=60u m=1
XMinv_p ENB EN VIN VIN pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMclamp_bg_ss BG CLG VIN VIN pfet_03v3 L=0.5u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMinv_n ENB EN VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

* ======================================================================
* testbench fragment   : sim/startup/testbench/tb_startup.spice
* sha256               : 5bab3ef6f22157ad3b9d3a9d99828d4c6149940acd66560ab2a47c5ffc833570
* ======================================================================
* startup -- stimulus fragment for ldo_core (issue #12)
*
* Startup (README.md Target specification, "Startup" row; DR-0004
* amendment A9): monotonic into any load 0-50mA, controlled ramp <=1V/ms,
* inside +/-2% within 3ms of enable, overshoot <=+2%.
*
* Three independent ldo_core instances share one Vsup and one EN pulse but
* have separate resistive loads, so full-load, min-load and
* into-current-limit startup are all captured in a SINGLE tran run:
*   - _full  : Rload=36 Ohm  (~50 mA at 1.8V -- full-load startup)
*   - _min   : Rload=1.8 MOhm (~1 uA -- effectively the divider-only
*              minimum-load startup; the ratified "0 mA external load"
*              condition, using a large-but-finite R so the op point is
*              well-posed at t=0 before EN asserts)
*   - _short : Rload=1 Ohm (near dead short -- "startup into current
*              limit"). The DUT now instantiates Xilimit (issue #11 / PR
*              #39, closed) and Xsoftstart (issue #38 / PR #44), so this
*              branch is evidence of inrush into a PROTECTED near-short
*              (not the unprotected inrush the pre-#39 record measured),
*              still against no ratified short-circuit-current row -- see
*              tb.json's Claim for the honest framing and carries no
*              pass/fail checks either way.
* Resistive loads (not ideal current sinks) are used throughout because an
* ideal current sink into Vout=0V at t=0 (EN still low) is non-physical and
* drives the node to an unbounded negative rail before EN ever asserts --
* confirmed by hand during implementation.
*
* INTEGRATION METHOD (issue #48)
*
* Once the DUT gained Xilimit and Xsoftstart, this deck stopped being
* runnable: ngspice's default trapezoidal integrator rang on the _short
* branch (a cold enable into a near dead short immediately drives
* Xilimit's current limiter into its clamped regime, which is a fast,
* near-discontinuous switching event) and collapsed its timestep for the
* rest of the 6 ms window -- ngspice integrates one deck on one global
* timestep, so the other two branches paid for it too. Measured at
* tt/27C/3.30V, CPU seconds to simulate the full 6 ms window:
*
*   default (trapezoidal) integration      >120 s CPU and still not done
*                                           (matches this issue's own
*                                           finding of ~2 min CPU to reach
*                                           only 1.49 ms of 6 ms, i.e. an
*                                           extrapolated ~8 min/corner)
*   .options method=gear                   11.7 s CPU, completes cleanly
*
* Gear (backward-differentiation) integration is the standard SPICE fix
* for exactly this failure mode: it does not ring the way trapezoidal
* does across a fast switching event, so it does not need to shrink its
* timestep to control it. Switching to it is an integration-METHOD choice,
* not a tolerance relaxation -- reltol/abstol/vntol/chgtol are all left at
* the ngspice defaults -- but it changes which numerical algorithm produces
* the recorded values, so it is disclosed here and in tb.json's Claim per
* the sim/soft-start/ precedent for disclosing integrator changes. Sanity
* check against the (still trapezoidal, unaffected) _full/_min branches
* run standalone: tsettle_full_ms 3.79087 vs 3.79087, overshoot_full_mv
* -27.688 vs -27.358 mV, tsettle_min_ms 3.88350 vs 3.88377,
* overshoot_min_mv -13.663 vs -13.661 mV (gear vs default trapezoidal) --
* sub-1.2%-of-scale agreement, well inside corner-to-corner spread.
.options method=gear
Vsup VIN 0 DC {vdd_val}
Ven EN 0 PULSE(0 {vdd_val} 1u 1n 1n 10m 20m)

Xdut_full VIN VOUT_FULL EN 0 LOOP_FULL LOOP_FULL ldo_core
Rload_full VOUT_FULL 0 36
Resr_full VOUT_FULL n_esr_full 0.1
Cout_full n_esr_full 0 4.7u

Xdut_min VIN VOUT_MIN EN 0 LOOP_MIN LOOP_MIN ldo_core
Rload_min VOUT_MIN 0 1.8Meg
Resr_min VOUT_MIN n_esr_min 0.1
Cout_min n_esr_min 0 4.7u

Vamm_short VIN VIN_SHORT 0
Xdut_short VIN_SHORT VOUT_SHORT EN 0 LOOP_SHORT LOOP_SHORT ldo_core
Rload_short VOUT_SHORT 0 1
Resr_short VOUT_SHORT n_esr_short 0.1
Cout_short n_esr_short 0 4.7u
